US08791161B2
N-[5-chloro-2-(methylsulfinyl)phenyl]benzenesulfonamide
Following General Procedure B, C, the title compound was prepared from 5-chloro-2-(methylsulfinyl)aniline and benzenesulfonyl chloride.

reactant | 5-chloro-2-(methylsulfinyl)aniline | ClC=1C=CC(=C(N)C1)S(=O)C | C7H8ClNOS
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | N-[5-chloro-2-(methylsulfinyl)phenyl]benzenesulfonamide | ClC=1C=CC(=C(C1)NS(=O)(=O)C1=CC=CC=C1)S(=O)C | C13H12ClNO3S2
